US08809371B2
N-bromosuccinimide (22 mg) was added to a DMF (5 ml) solution containing tert-butyl cis-2-(6-amino-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate (60 mg) at 0° C., followed by stirring for 1 hour. Water and ethyl acetate were added to the reaction mixture. The organic layer was collected, washed with saturated saline, and dried over anhydrous sodium sulfate, and then the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (silica gel:silica gel 60 (spherical shape) (Kanto Chemical Co., Inc.); hexane:ethyl acetate=4:1 to 3:1), and a white solid of tert-butyl cis-2-(6-amino-3-bromo-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate (68 mg) was thus obtained.

reactant | N-bromosuccinimide | 22 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | tert-butyl cis-2-(6-amino-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate | 60 mg | NC1=C(C=CC(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)C(=O)NC(C)(C)C1=CC=CC=C1 | C26H37N5O3
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl cis-2-(6-amino-3-bromo-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate | 68 mg | NC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)Br)C(=O)NC(C)(C)C1=CC=CC=C1 | C26H36BrN5O3
